Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Elective chemotherapy

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ year old male with CNS lymphoma s/p L
craniotomy ___ who presents for his 6th dose of HD-MTX.

The patient was admitted on ___ for cycle 5 which was tolerated
well.

Since discharge he has been doing well aside from occasional L
ankle pain that has been long standing. He has no headache or
vision changes. No chest pain or palpitations. No dyspnea. No 
abd
pain. No n/v/d. No dysuria. 

 
Past Medical History:
PAST ONCOLOGIC HISTORY:
CNS Lymphoma:
- ___: Headache and confusion started
- ___: Head CT without contrast showed edema and mass effect
in the left frontal brain
- ___: Head MRI with gadolinium showed enhancing lesions at
left frontal, right parietal, and right temporal regions
- ___: Torso CT did not show lymphadenopathy or masses 
- ___: Open brain biopsy by Dr. ___. Pathology: 
CD20+
B-cell lymphoma.
- ___: C1 induction high-dose methotrexate at 8 grams/m2
- ___: C2 induction high-dose methotrexate at 8 grams/m2
- ___: C3 induction high dose MTX
- ___: C4 induction high dose MTX
- ___ q2wk Consolidation high dose MTX
- ___ q2wk Consolidation high dose MTX
- ___ q2wk Consolidation high dose MTX
- ___ q2wk Consolidation HD-MTX 

PAST MEDICAL HISTORY: 
- CNS lymphoma
- Hypertension

 
Social History:
___
Family History:
His mother died at ___ after embolic illness, details unknown. 
His
father is healthy. No known family history of leukemia or
lymphoma.

 
Physical Exam:
ADMISSION:
VITALS: ___ 0728 Temp: 98.1 PO BP: 127/89 R Sitting HR: 99
RR: 16 O2 sat: 96% O2 delivery: RA 
   
GENERAL:  Sitting comfortably in bed, NAD
HEENT: clear OP without lesions, moist membranes
EYES:  PERRL, anicteric
NECK:  supple
RESP:  CTAB, no wheezing, rhonchi or crackles
___:  Regular, no Mumurs
GI:  soft, Non-tender without rebound and guarding
EXT:  warm, no edema
SKIN:  dry, no obvious rashes
MSK: no obvious deformity, erythema or edema over left ankle.
Sensation and strength intact. Point tenderness over medal 
distal
aspect of fibula
NEURO:  CN II-XII intact, alert, fluent speech
ACCESS:  POC c/d/I

DISCHARGE:
98.5 PO 130 / 86 102 18 96 RA 

GENERAL:  Sitting comfortably in bed, NAD
HEENT: clear OP without lesions, moist membranes
EYES:  PERRL, anicteric
NECK:  supple
RESP:  CTAB, no wheezing, rhonchi or crackles
___:  Regular, no Mumurs
GI:  soft, Non-tender without rebound and guarding
EXT:  warm, no edema
SKIN:  dry, no obvious rashes
MSK: no obvious deformity, erythema or edema over left ankle.
Sensation and strength intact. Point tenderness over medal 
distal
aspect of fibula
NEURO:  CN II-XII intact, alert, fluent speech
ACCESS:  POC c/d/i

 
Pertinent Results:
ADMISSION:

___ 08:05AM BLOOD WBC-6.3 RBC-5.29 Hgb-15.7 Hct-46.2 MCV-87 
MCH-29.7 MCHC-34.0 RDW-12.7 RDWSD-40.1 Plt ___
___ 08:05AM BLOOD Glucose-93 UreaN-20 Creat-0.9 Na-140 
K-4.6 Cl-105 HCO3-22 AnGap-13
___ 08:05AM BLOOD ___ PTT-22.9* ___
___ 08:05AM BLOOD ALT-32 AST-25 AlkPhos-96 TotBili-0.5
___ 08:05AM BLOOD Calcium-9.1 Phos-2.1* Mg-2.1

DISCHARGE:

___ 06:03AM BLOOD WBC-4.3 RBC-4.78 Hgb-14.0 Hct-41.7 MCV-87 
MCH-29.3 MCHC-33.6 RDW-12.2 RDWSD-39.3 Plt ___
___ 06:03AM BLOOD ALT-86* AST-37 AlkPhos-66 TotBili-1.1
___ 06:03AM BLOOD Calcium-8.5 Phos-2.0* Mg-1.9

___ 04:58PM BLOOD mthotrx-2.3*
___ 05:03PM BLOOD mthotrx-0.14
___ 06:03AM BLOOD mthotrx-0.10
 
Brief Hospital Course:
Mr. ___ is a pleasant ___ w/ CNS lymphoma (s/p L frontal 
craniotomy ___, who presents for his 6th dose of q2wk 
consolidation therapy with HD-MTX.

#ENCOUNTER FOR CHEMOTHERAPY
#CNS LYMPHOMA:

Patient presented for elective HD-MTX. His urine was alkalinized 
per protocol and he received HD-MTX per OMS order set. He then 
received leucovorin rescue per protocol. MTX levels were checked 
q24H until <0.1. The treatment was tolerated well. He was 
maintained on a MTX diet while in house. Continued home Keppra 
for seizure ppx.

Patient was given Rx for Keppra and bicarbonate at discharge.

# Billing: >30 minutes spent coordinating this discharge plan

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 1000 mg PO BID 
2. Sodium Bicarbonate 1300 mg PO FOUR TIMES PER DAY FOR 2 DAYS 
PRIOR TO CHEMOTHERAPY 
3. Ondansetron ODT 8 mg PO Q8H:PRN nausea/vomiting 

 
Discharge Medications:
1.  LevETIRAcetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
2.  Ondansetron ODT 8 mg PO Q8H:PRN nausea/vomiting 
RX *ondansetron 8 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*30 Tablet Refills:*0 
3.  Sodium Bicarbonate 1300 mg PO FOUR TIMES PER DAY FOR 2 DAYS 
PRIOR TO CHEMOTHERAPY 
RX *sodium bicarbonate 650 mg 2 tablet(s) by mouth four times a 
day Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Encounter for chemotherapy
# CNS Lymphoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___ 
___. You were admitted for your planned HD-MTX 
chemotherapy, which you tolerated well. 

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___